US04291168
A solution of 1-bromo-3-(trimethylsilyl)-2-propyne (2.87 g., 15.0 mmol) prepared according to methods of Corey, Tet. Lett., 3963 (1973) and Miller, Syn. Comun., 2, 267 (1972) in 50 ml. of dimethylformamide is added to a mixture of ethyl (6,7-dichloro-1-oxo-2-phenyl-5-indanyloxy)acetate (2.9 g., 7.65 mmol) and powdered potassium carbonate (2.65 g., 19.2 mmol) under an argon atmosphere. After stirring at 60° for a period of 2 hr. and cooling to room temperature, ether is added to the reaction mixture followed by dilute hydrochloric acid. The acidified solution is extracted with ether and the ethereal extract sequentially washed with water and brine, and then dried over magnesium sulfate. Removal of solvent under reduced pressure affords 4.72 g. of tan solid. Crystallization of this material from cyclohexane provides 3.26 g., (87% yield) of ethyl [6,7-dichloro-1-oxo-2-phenyl-2-(3-(trimethylsilyl)-2-propynyl)-5-indanyloxy]acetate, m.p. 111.5°- 113° (corr.).

reactant | 1-bromo-3-(trimethylsilyl)-2-propyne | 15.0 mmol, 2.87 g | BrCC#C[Si](C)(C)C | C6H11BrSi
reactant | ethyl (6,7-dichloro-1-oxo-2-phenyl-5-indanyloxy)acetate | 7.65 mmol, 2.9 g | ClC1=C(C=C2CC(C(C2=C1Cl)=O)C1=CC=CC=C1)OCC(=O)OCC | C19H16Cl2O4
reactant | potassium carbonate | 19.2 mmol, 2.65 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | ethyl [6,7-dichloro-1-oxo-2-phenyl-2-(3-(trimethylsilyl)-2-propynyl)-5-indanyloxy]acetate | 87% yield | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(CC#C[Si](C)(C)C)C1=CC=CC=C1)OCC(=O)OCC | C25H26Cl2O4Si
